US07855201B2
Step 8: (±)-N-Isobutyl-4-(2-methoxybenzyl)-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride
A mixture of 31 mg (0.080 mmol) of (±)-N-isobutyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride, 0.0106 mL (0.088 mmol) of o-anisaldehyde, and 6.6 mg (0.080 mmol) of sodium acetate in 0.5 mL of 1,2-dichloroethane was stirred under nitrogen at ambient temperature for 10 minutes and 19 mg (0.088 mmol) of sodium triacetoxyborohydride was added. The mixture was stirred overnight then diluted with 5 mL of ethyl acetate and washed with 2 mL each of saturated sodium bicarbonate solution, water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 41 mg of a colorless gum. Preparative TLC (60% ethyl acetate/hexanes) gave 25 mg (68%) of product free-base as a gum. The gum was taken up in 1 mL of methanol, treated with 5 drops of 4M HCl in dioxane, and the mixture was concentrated. The residue was triturated with ether, and dried under vacuum to give the hydrochloride salt as a solid white foam. MS (m+1)=467.3; H NMR (400 MHz, CD3OD) 7.45 (m, 2H), 7.10 (m, 3H), 6.85 (m, 2H), 4.97 (m, 1H), 4.81 (m, 1H), 4.56-4.39 (m, 3H), 4.1-3.7 (m, 8H), 3.6-3.2 (m, 3H), 3.2-2.85 (m, 2H), 2.77 (d, 2H, J 6 Hz), 2.04 (m, 1H), 1.94 (m, 2H), 1.70 (m, 2H), 0.90 (m, 6H).

reactant | (±)-N-isobutyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride | 0.080 mmol, 31 mg | Cl.C(C(C)C)N(C(=O)C1CNCCO1)CC1=CC2=C(CCCCO2)C=C1
reactant | o-anisaldehyde | 0.088 mmol, 0.0106 mL | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | sodium acetate | 0.080 mmol, 6.6 mg | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.088 mmol, 19 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.5 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (±)-N-Isobutyl-4-(2-methoxybenzyl)-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride | 41 mg | Cl.C(C(C)C)N(C(=O)C1CN(CCO1)CC1=C(C=CC=C1)OC)CC1=CC2=C(CCCCO2)C=C1 | InChI=1S/C28H38N2O4.ClH/c1-21(2)17-30(18-22-11-12-23-8-6-7-14-33-26(23)16-22)28(31)27-20-29(13-15-34-27)19-24-9-4-5-10-25(24)32-3;/h4-5,9-12,16,21,27H,6-8,13-15,17-20H2,1-3H3;1H
